US04618677
The procedure described in Example 2 was followed, using 2.5 g of 4-n-butylphenyl isocyanate, 5.0 g of 3-{4-[3-(4-chlorophenyl)propyl]piperazin-1-yl}propanethiol dihydrochloride, 1.4 g of triethylamine and 50 ml of methylene chloride, to give 2.7 g (34% of theory) of N-(4-n-butylphenyl-S-{3-[4-[3-(4-chlorophenyl)propyl]piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, m.p. 270°-272° C.

reactant | 4-n-butylphenyl isocyanate | 2.5 g | C(CCC)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | 3-{4-[3-(4-chlorophenyl)propyl]piperazin-1-yl}propanethiol dihydrochloride | 5.0 g | Cl.Cl.ClC1=CC=C(C=C1)CCCN1CCN(CC1)CCCS
reactant | triethylamine | 1.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-n-butylphenyl-S-{3-[4-[3-(4-chlorophenyl)propyl]piperazin-1-yl]propyl}thiocarbamate dihydrochloride | Cl.Cl.C(CCC)C1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CCCC1=CC=C(C=C1)Cl | InChI=1S/C27H40ClN3OS.2ClH/c1-2-3-6-23-10-14-26(15-11-23)29-27(32)33-22-5-17-31-20-18-30(19-21-31)16-4-7-24-8-12-25(28)13-9-24;;/h8-15,29,32-33H,2-7,16-22H2,1H3;2*1H
